US04645765
To a solution of 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (100 mg) in methanol (5 ml) were added hydroxylamine hydrochloride (90 mg) and sodium bicarbonate (106 mg). The mixture was stirred for 1 hour at ambient temperature and evaporated in vacuo. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform, methanol and water (6:4:1, v/v) to afford 6,9-dihydroxy-4-hydroxyiminomethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (105 mg).

reactant | 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 100 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=O)O)=O | C14H15N3O6
reactant | hydroxylamine hydrochloride | 90 mg | Cl.NO
reactant | sodium bicarbonate | 106 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 6,9-dihydroxy-4-hydroxyiminomethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 105 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=NO)O)=O | C14H16N4O6
